US05087775
Preparation of 2-chloro-3,3,4,4-tetrafluorocyclobutenyl isopropyl ether / step a
200 g (5 mol) of powdered sodium hydroxide are metered into a solution of 786 g (3.94 mol) of 1,2-dichloro-3,3,4,4-tetrafluorocyclobutene and 328 g (5.47 mol) of technical grade isopropanol at -10° C. The mixture is stirred for a further 2 hours, the solid is filtered off with suction and the filtrate is distilled.

reactant | sodium hydroxide | 5 mol, 200 g | [OH-].[Na+]
reactant | 1,2-dichloro-3,3,4,4-tetrafluorocyclobutene | 3.94 mol, 786 g | ClC1=C(C(C1(F)F)(F)F)Cl | C4Cl2F4
reactant | isopropanol | C(C)(C)O | C3H8O
product | 2-chloro-3,3,4,4-tetrafluorocyclobutenyl isopropyl ether | C(C)(C)OC1=C(C(C1(F)F)(F)F)Cl | C7H7ClF4O
